US04097480
2,2-dimethyl-7-dimethylaminoethoxy-4-(3-trifluoromethylphenyl)tetrahydroquinoline dihydrochloride m.p. 125°-135°;
2,2-dimethyl-7-dimethylaminoethoxy-4-(4-trifluoromethylphenyl-tetrahydroquinoline dihydrochloride m.p. 141°-8°; and 2,2-dimethyl-7-dimethylaminoethoxy-4-(4-chlorophenyl)tetrahydroquinoline dihydrochloride m.p. 139°-143°.

reactant | 4-trifluoromethylphenyl-tetrahydroquinoline dihydrochloride | Cl.Cl.FC(C1=CC=C(C=C1)N1CCCC2=CC=CC=C12)(F)F
reactant | 2,2-dimethyl-7-dimethylaminoethoxy-4-(4-chlorophenyl)tetrahydroquinoline dihydrochloride | Cl.Cl.CC1(NC2=CC(=CCC2C(C1)C1=CC=C(C=C1)Cl)OCCN(C)C)C
product | 2,2-dimethyl-7-dimethylaminoethoxy-4-(3-trifluoromethylphenyl)tetrahydroquinoline dihydrochloride | Cl.Cl.CC1(NC2=CC(=CCC2C(C1)C1=CC(=CC=C1)C(F)(F)F)OCCN(C)C)C | InChI=1S/C22H29F3N2O.2ClH/c1-21(2)14-19(15-6-5-7-16(12-15)22(23,24)25)18-9-8-17(13-20(18)26-21)28-11-10-27(3)4;;/h5-8,12-13,18-19,26H,9-11,14H2,1-4H3;2*1H
